US05389666
2-(5,5-Diphenyl-4-oxo-2-pentynyl)-5-methoxy-1,2,3,4-tetrahydronaphthalene
To a mixture of ethylmagnesium bromide (5.7 ml; 3.0M/L in ether solution) and THF (40 ml) was added dropwise a solution of the compound prepared in reference example 30 (3.0 g) in THF (20 ml) over a 10 min period. The mixture was stirred for 2 h at room temperature. To the mixture was added a solution of diphenylacetaldehyde (2.94 g) in THF (10 ml). The mixture was stirred for 2 h. After quenched by addition of ammonium chloride, the mixture was extracted with ether. The extract was washed with water and a saturated aqueous solution of sodium chloride, successively, dried over anhydrous magnesium sulfate, and evaporated. To a solution of the residue in ether (50 ml) was added manganese (IV) oxide (2.7 g) at room temperature. The mixture was stirred for 2 h. The mixture was filtrated, and evaporated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=7:1) to give the title compound (2.41 g) having the following physical data.

reactant | ethylmagnesium bromide | 5.7 ml | C(C)[Mg]Br
reactant | diphenylacetaldehyde | 2.94 g | C1(=CC=CC=C1)C(C=O)C1=CC=CC=C1 | C14H12O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | THF | 40 ml | C1CCOC1 | C4H8O
product | 2-(5,5-Diphenyl-4-oxo-2-pentynyl)-5-methoxy-1,2,3,4-tetrahydronaphthalene | 2.41 g | C1(=CC=CC=C1)C(C(C#CCC1CC2=CC=CC(=C2CC1)OC)=O)C1=CC=CC=C1 | C28H26O2
